US07138425B2
a) 2-(3-Nitro-4-methoxyphenyl)-5-(3-acetylphenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole (200 mg, 0.57 mmol) and 3-acetylphenylboronic acid (139 mg, 0.85 mmol) the subtitle compound was obtained (89 mg, 26%). 1H NMR (DMSO) δ 8.75(d, 1H), 8.46(dd, 1H), 8.23(t, 1H), 7.98–7.96(m, 2H), 7.69–7.56(m, 3H), 7.27(d, 1H), 4.08(s, 3H), 2.68(s, 3H).

reactant | 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole | 0.57 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | 3-acetylphenylboronic acid | 0.85 mmol, 139 mg | C(C)(=O)C=1C=C(C=CC1)B(O)O | C8H9BO3
product | 2-(3-Nitro-4-methoxyphenyl)-5-(3-acetylphenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC(=CC=C2)C(C)=O | C22H16N2O5
